US06849633B2
Into a mixture of 0.5 g (1.6 mmol) of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole-3-carbonitrile, 0.24 g (1.7 mmol) of methyl pyrazinecarboxylate, and 0.5 ml of acetonitrile was gradually added 0.3 g (1.6 mmol) of 28% CH3ONa/CH3OH at room temperature. After 2 hours of stirring at room temperature, 5 ml of water and then concentrated hydrochloric acid were added thereto to make the mixture pH 2, whereby crystals were precipitated. Thereto was added 10 ml of ethyl acetate, followed by extraction. The organic layer was washed with saturated saline and then dried over anhydrous sodium sulfate. After removal of the sodium sulfate by filtration, the layer was concentrated and the resulting crystals were filtrated. The crystals were washed with a small amount of hexane and ethyl acetate and the dried to obtain 0.5 g (yield 77%) of N-[3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole-5-yl]pyrazine-2-carboxamide.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole-3-carbonitrile | 1.6 mmol, 0.5 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C11H5Cl2F3N4
reactant | methyl pyrazinecarboxylate | 1.7 mmol, 0.24 g | N1=C(C=NC=C1)C(=O)OC | C6H6N2O2
reactant | CH3ONa CH3OH | 1.6 mmol, 0.3 g | CO[Na].CO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
product | N-[3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole-5-yl]pyrazine-2-carboxamide | 0.5 g, yield 77% | C(#N)C1=NN(C(=C1)NC(=O)C1=NC=CN=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C16H7Cl2F3N6O
